US08809532B2
6-bromo-2-methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole
A mixture of (2-bromophenyl)hydrazine hydrochloride (1.1 g, 4.92 mmol; Aldrich) and 1-methyl-4-piperidone (0.56 g, 4.92 mmol; Aldrich) was combined with a solution of HCl in acetic acid (1.0 M, 30 mL; Aldrich) and stirred at 70° C. for 18 hours in a sealed tube. The reaction mixture was concentrated under vacuum. The residue was taken up in toluene (100 mL) and concentrated under vacuum to remove most of the acetic acid (the azeotrope procedure was repeated a second time). The residue was dissolved in dimethyl sulfoxide (20 mL) and purified by reverse-phase HPLC [Waters XBridge™ RP18 column, 5 μm, 50×100 mm, flow rate 100 mL/minute, 50-99% gradient of methanol in buffer (0.1 M aqueous ammonium bicarbonate, adjusted to pH 10 with ammonium hydroxide)] to afford the title compound: 1H NMR (400 MHz, methanol-d4) δ ppm 2.54 (s, 3H), 2.85-2.90 (m, 2H), 2.93-2.98 (m, 2H), 3.66 (t, J=1.5 Hz, 2H), 6.88 (t, J=7.8 Hz, 1H), 7.19 (dd, J=7.8, 0.8 Hz, 1H), 7.32 (dd, J=7.8, 0.8 Hz, 1H); MS (DCI) m/z 265/267 (M+H)+.

reactant | (2-bromophenyl)hydrazine hydrochloride | 4.92 mmol, 1.1 g | Cl.BrC1=C(C=CC=C1)NN
reactant | 1-methyl-4-piperidone | 4.92 mmol, 0.56 g | CN1CCC(CC1)=O | C6H11NO
reactant | HCl | Cl | ClH
solvent | acetic acid | 1.0 M, 30 mL | C(C)(=O)O | C2H4O2
product | 6-bromo-2-methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | BrC1=CC=CC=2C3=C(NC12)CCN(C3)C | C12H13BrN2
